US07977344B2
6-Amino-2-(Pentylamino)-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of 8-methoxy-N2-pentyl-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine (140 mg) in dry MeOH (15.7 mL) was added 4N HCl in 1,4-dioxane (2.65 mL). The reaction mixture was stirred at room temperature for 3 h and was then neutralised with 2M sodium hydroxide solution. The mixture was concentrated in vacuo and the residue was taken up into water (20 mL). The mixture was filtered under reduced pressure to give the title compound (95 mg) as an off-white solid.

reactant | 8-methoxy-N2-pentyl-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purine-2,6-diamine | 140 mg | COC=1N(C2=NC(=NC(=C2N1)N)NCCCCC)CC1CCOCC1 | C17H28N6O2
reactant | HCl | 4N | Cl | ClH
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | MeOH | 15.7 mL | CO | CH4O
solvent | 1,4-dioxane | 2.65 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(Pentylamino)-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 95 mg | NC1=C2NC(N(C2=NC(=N1)NCCCCC)CC1CCOCC1)=O | C16H26N6O2
